US04760162
In the Examples, the purity of the obtained inorganic acid salt of N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanylchloride was measured by reacting the obtained acid chloride with ethanol in the presence of a base to produce N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine ethylester, which was then subjected to a high performance liquid chromatography (hereinafter referred to as "HPLC"). More particularly, about 100 mg of the sample of the acid chloride was put in a 10 ml messflask, to which absolute ethanol containing 0.3% (w/v) of triethylamine was added to give 10 ml of the solution and the esterification was carried out by stirring the solution with a magnetic stirrer at room temperature for 30 minutes. To 1.0 ml of the sample of the thus obtained solution, 4 ml of ethanol solution containing 10 mg of n-propylbenzoic acid (internal standard reagent) was added, the mixture was subjected to the analysis by the column chromatography under the following conditions.

reactant | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanylchloride | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)Cl | C15H20ClNO3
reactant | ethanol | C(C)O | C2H6O
product | N-[1(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanine ethylester | C(C)OC([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)C)=O | C17H25NO4
